US08563565B2
Synthesis of 7-(2-methoxy-4-methylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
5-(2,4-dimethoxybenzyl)-1-(tetrahydro-2H-pyran-4-yl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one (100 mg) obtained in Preparation Example 1(5) was dissolved in 1,4-dioxane (4 mL). 3-bromo-2-methoxy-4-methylpyridine obtained in Preparation Example 37 (2) (55.6 mg), Pd(PPh3)4 (10.6 mg), cesium carbonate (179 mg) and water (1 mL) were added to the solution, and the mixture was reacted using a microwave reactor at 130° C. for three hours. The reaction mixture was returned to room temperature and then partitioned by adding ethyl acetate. The organic layer was washed with brine and then dried over magnesium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 30% to 50% to 80%) to give 5-(2,4-dimethoxybenzyl)-7-(2-methoxy-4-methylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one (78 mg). The 5-(2,4-dimethoxybenzyl)-7-(2-methoxy-4-methylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one (78 mg) was dissolved in TFA (1 mL), and the mixture was stirred at 65° C. for two hours. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure. The resulting residue was neutralized by adding a saturated aqueous sodium bicarbonate solution. The aqueous solution was extracted with DCM. The organic layer was dried over anhydrous magnesium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 50% to 70% to 80% to 100%) to give the title compound (30 mg).

reactant | 5-(2,4-dimethoxybenzyl)-7-(2-methoxy-4-methylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 78 mg | COC1=C(CN2C(C3=C(C=4C=CC(=CC24)C=2C(=NC=CC2C)OC)N(N=C3)C3CCOCC3)=O)C=CC(=C1)OC | C31H32N4O5
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 7-(2-methoxy-4-methylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 30 mg | COC1=NC=CC(=C1C=1C=CC=2C3=C(C(NC2C1)=O)C=NN3C3CCOCC3)C | C22H22N4O3
